US04684640
Sodium 3-(1-naphthyloxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate
A mixture of a solution of 800 mg of 4-nitrobenzyl 3-(1-naphthyloxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate in dioxan and 150 mg of sodium bicarbonate in water, and 10% palladium/charcoal was hydrogenated at 50 psi at 25° for 60 minutes.

reactant | 4-nitrobenzyl 3-(1-naphthyloxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 800 mg | C1(=CC=CC2=CC=CC=C12)OC1=C(N2C(CC2S1)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H16N2O6S
reactant | sodium bicarbonate | 150 mg | C([O-])(O)=O.[Na+]
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | palladium/charcoal | [Pd] | Pd
product | Sodium 3-(1-naphthyloxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | C1(=CC=CC2=CC=CC=C12)OC1=C(N2C(CC2S1)=O)C(=O)[O-].[Na+] | InChI=1S/C16H11NO4S.Na/c18-12-8-13-17(12)14(15(19)20)16(22-13)21-11-7-3-5-9-4-1-2-6-10(9)11;/h1-7,13H,8H2,(H,19,20);/q;+1/p-1
